US05416096
a) trans-3-Amino-1-benzyl-4-methoxy-pyrrolidine
27 g (0.41 mol) of sodium azide are dissolved in 50 ml of water, and 17.5 g (0.1 mol) of 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane in 300 ml of dioxane are added. The mixture is heated under reflux for 72 hours and concentrated, the inorganic salts are dissolved in water and the mixture is extracted with chloroform. The extract is dried over potassium carbonate and concentrated. The residue is dissolved in 50 ml of absolute tetrahydrofuran and the solution is added dropwise to 4 g of sodium hydride (80% strength in paraffin oil) in 200 ml of absolute tetrahydrofuran. The mixture is heated under reflux for one hour and 15 g (0.1 mol) of methyl iodide are then added dropwise. The mixture is subsequently heated under reflux overnight and concentrated, the residue is taken up in water and the mixture is extracted with chloroform. The extract is dried over potassium carbonate and concentrated and the residue is distilled. 13.1 g of a material which is 73% pure according to the gas chromatogram are obtained. 12.7 g of this material in 40 ml of absolute tetrahydrofuran are added dropwise to a suspension of 4 g of lithium aluminum hydride in 150 ml of absolute tetrahydrofuran and the mixture is heated under reflux for 2 hours. Excess lithium aluminum hydride is decomposed by careful dropwise addition of 4 ml portions of water and 15% strength potassium hydroxide solution and again 4 ml of water. The inorganic salts are filtered off with suction and washed several times with chloroform. The organic phases are dried over potassium carbonate and concentrated and the residue is distilled.

reactant | sodium azide | 0.41 mol, 27 g | [N-]=[N+]=[N-].[Na+]
reactant | 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane | 0.1 mol, 17.5 g | C(C1=CC=CC=C1)N1CC2OC2C1 | C11H13NO
reactant | methyl iodide | 0.1 mol, 15 g | CI | CH3I
reactant | lithium aluminum hydride | 4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium hydroxide | [OH-].[K+]
reactant | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | trans-3-Amino-1-benzyl-4-methoxy-pyrrolidine | N[C@@H]1CN(C[C@H]1OC)CC1=CC=CC=C1 | C12H18N2O
